* LM4562
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: LM4562
* Date: 4/10/2012
* Model Type: All In One
* Simulator: Pspice
* Simulator Version:  16.2
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SNAS326I - January 26, 2010
*
* Model Version: 1.1
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
* Version 1.1 : a. Adjust Input Bias Current
*               b. Adjust input current white noise
*               c. Adjust common mode input range  
*
*****************************************************************************
* Notes:
* The following are the model parameters being modeled:
* Voltage Noise, Current Noise, PSRR, CMRR, Aol, GBW, Slew Rate, 
* Output Voltage Swing, Ishort Circuit, Commond Mode Input Range, 
* Input bias current, input bias offset, voltage offset and quiescent 
* current
*****************************************************************************
.SUBCKT LM4562 Vinm Vinp VCC VEE Vout
X1 VCC VEE Vinp Vinm Vout AMP
.ENDS

.SUBCKT AMP VDD VSS VIP VIM VO

Iq          VDD VSS 5E-3
IS2         VDD 6 -15.5E-9
IS3         5 VSS 4.5E-9

Vos         6 17 0.13E-3

XD4         VSS 5 IDEAL_DIODE
+PARAMS: EMCO =  0.01 BRKV =  60 IBRKV = 0.001

XD3         5 VDD IDEAL_DIODE
+PARAMS: EMCO =  0.01 BRKV =  60 IBRKV = 0.001

XD2         VSS 6 IDEAL_DIODE
+PARAMS: EMCO =  0.01 BRKV =  60 IBRKV = 0.001

XD1         6 VDD IDEAL_DIODE
+PARAMS: EMCO =  0.01 BRKV =  60 IBRKV = 0.001

XU9         VDD VSS GNDF GND_FLOAT

XU6         8 VO Vimon AMETER

XU5         VDD VSS 9 10 Vimon GNDF VCLAMP_W_SENSE
+ PARAMS: VMAXIO =  1 VMINIO =  1 SLOPE = 4

XU11         14 9 GNDF TF
+ PARAMS: FZ1 =  1E+10 FZ2 =  1E+10 FZ3 =  1E+10 FZ4 =  1E+10 FZ5 =  1E+10
+ FP1 =  200E+6 FP2 =  1E+10 FP3 =  1E+10 FP4 =  1E+10

XU16         15 16 14 GNDF GBW_SLEW_SE
+ PARAMS: AOL =  140 GBW = 55E+6 SRP =  20E+6 SRN = 20E+6 IT = 1M

XU15         VDD VSS 5 16 GNDF VCLAMP
+ PARAMS:  VMAX =  0.9 VMIN = 1.1

XU14        VDD VSS 6 15 GNDF VCLAMP
+ PARAMS:  VMAX =  0.9 VMIN = 1.1

XR3          18 8 RNOISE_LESS_WILIM
+ PARAMS: RX =  0.1 IMAX =  0.053 IMIN =  -0.042


RVXU1 10 18 13
*VXU1 10 18 0
*XU1          10 18 GNDF ZOUT
*+ PARAMS: FZ1 =  2.7916 FZ2 =  4.641E+6 FZ3 =  91.785E+6 FP1 =  0.212E+6
*+ FP2 = 3500 FEQ =  1.4 RO =  13

*VXU8 19 5 0
XU8          19 5 GNDF CMRR
+ PARAMS: CMRR =  130 FCMRR =  1000

*VXU7 20 19 0
XU7          VDD VSS 20 19 GNDF PSRR
+ PARAMS: PSRR = 120 FPSRR =  100

XU4          17 20 FEMT
+ PARAMS: NLFF =  3100 FLWF =  10 NVRF =  1600

XU3          21 17 VNSE
+ PARAMS: NLF =  6.3 FLW =  10 NVR =  2.7

XU2          VIP VIM 21 20 GNDF INPUT
+ PARAMS: RCM =  0.1 CCM =  0.1E-12 CDM =  0.1E-12

*RDIFF 21 20 30k




DPASSTOP VDD NET126 DDEFAULT
DBLOCKTOP GNDF NET126 DBLOCK
GTOP NET126 GNDF Vimon 0  1

DPASSBOTTOM NET128 VSS DDEFAULT
DBLOCKBOTTOM NET128 GNDF DBLOCK
GBOTTOM NET128 GNDF Vimon 0 1

.MODEL DDEFAULT D IS=8E-16
.MODEL DBLOCK D IS=8E-16 BV=25

.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT IDEAL_DIODE  A C
+PARAMS: EMCO = 0.01 BRKV = 60 IBRKV = 1M
D1 A C IDIODE
.MODEL IDIODE D(N = {EMCO} BV = {BRKV} IBV = {IBRKV})
.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT GND_FLOAT  VDD VSS GNDF
EGNDF  GNDF 0 VALUE = {(V(VDD)+V(VSS))*0.5}
.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT AMETER   VI  VO VIMON
+ PARAMS: GAIN = 1
VSENSE VI VO DC = 0
EMETER VIMON 0 VALUE = {I(VSENSE)*GAIN}
.ENDS


**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT VCLAMP_W_SENSE   VDD  VSS  VI  VO VIMON  GNDF
+ PARAMS: VMAXIO = 0 VMINIO = 0 SLOPE = 0
EPCLIP  VDD_CLP 0 VALUE = {V(VDD,GNDF) - SLOPE*V(VIMON) - VMAXIO}
ENCLIP  VSS_CLP 0 VALUE = {V(VSS,GNDF) - SLOPE*V(VIMON) + VMINIO}
ECLAMP  VO GNDF VALUE = {LIMIT(V(VI,GNDF), V(VDD_CLP), V(VSS_CLP))}
.ENDS


**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT TF   VI  VO  GNDF
+ PARAMS: FZ1 = 10G FZ2 = 10G FZ3 = 10G FZ4 = 10G FZ5 = 10G
+ FP1 = 1 FP2 = 10G FP3 = 10G FP4 = 10G
.PARAM GM = 1M
.PARAM RO = {1/GM}
.PARAM PI = 3.141592

GP1  GNDF VP1 VI GNDF {GM}
GRP1 VP1 GNDF VALUE = {V(VP1,GNDF)/RO}
CP1  VP1 GNDF {1/(2*PI*RO*FP1)}

GP2  GNDF VP2 VP1 GNDF {GM}
GRP2 VP2 GNDF VALUE = {V(VP2,GNDF)/RO}
CP2  VP2 GNDF {1/(2*PI*RO*FP2)}

GP3  GNDF VP3 VP2 GNDF {GM}
GRP3 VP3 GNDF VALUE = {V(VP3,GNDF)/RO}
CP3  VP3 GNDF {1/(2*PI*RO*FP3)}

GP4  GNDF VP4 VP3 GNDF {GM}
GRP4 VP4 GNDF VALUE = {V(VP4,GNDF)/RO}
CP4  VP4 GNDF {1/(2*PI*RO*FP4)}

GZ1  GNDF VZ1 VP4 GNDF {GM}
GRZ1  VZ1 VX1 VALUE =  {V(VZ1,VX1)/RO}
LZ1  VX1 GNDF {RO/(2*PI*FZ1)}

GZ2  GNDF VZ2 VZ1 GNDF {GM}
GRZ2  VZ2 VX2 VALUE =  {V(VZ2,VX2)/RO}
LZ2  VX2 GNDF {RO/(2*PI*FZ2)}

GZ3  GNDF VZ3 VZ2 GNDF {GM}
GRZ3  VZ3 VX3 VALUE =  {V(VZ3,VX3)/RO}
LZ3  VX3 GNDF {RO/(2*PI*FZ3)}

GZ4  GNDF VZ4 VZ3 GNDF {GM}
GRZ4  VZ4 VX4 VALUE =  {V(VZ4,VX4)/RO}
LZ4  VX4 GNDF {RO/(2*PI*FZ4)}

GZ5  GNDF VO VZ4 GNDF {GM}
GRZ5  VO VX5  VALUE = {V(VO,VX5)/RO}
LZ5  VX5 GNDF {RO/(2*PI*FZ5)}

.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT GBW_SLEW_SE   VIP  VIM  VO  GNDF
+ PARAMS: AOL = 100  GBW = 1MEG  SRP = 1MEG  SRN = 1MEG IT = 1M
.PARAM PI = 3.141592
.PARAM IP = {IF(SRP <= SRN,IT,IT*(SRP/SRN))}
.PARAM IN = {IF(SRN <= SRP,-IT,-IT*(SRN/SRP))}
.PARAM CC = {IF(SRP <= SRN,IT/SRP,IT/SRN)}
.PARAM FP = {GBW/PWR(10,AOL/20)}
.PARAM RC = {1/(2*PI*CC*FP)}
.PARAM GC = {PWR(10,AOL/20)/RC}
G1          GNDF VO VALUE = {LIMIT(GC*V(VIP,VIM),IP,IN)}
C1          VO GNDF {CC}
GR1          VO GNDF VALUE =  {V(VO,GNDF)/RC}
.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT VCLAMP   VDD  VSS  VI  VO  GNDF PARAMS: VMAX = 0.1 VMIN = 0.1
ECLAMP  VO GNDF VALUE = {LIMIT(V(VI,GNDF),V(VDD,GNDF) - VMAX, V(VSS,GNDF) + VMIN)}
.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT RNOISE_LESS_WILIM   P  N  PARAMS: RX = 1K  IMAX = 1M  IMIN = -1M
GRES  P N VALUE = {LIMIT(V(P,N)/RX, IMAX, IMIN)}
.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT ZOUT   VI VO  GNDF
+ PARAMS: FZ1 = 1.4 FZ2 = 4.7E6  FZ3 = 91E6
+ FP1 = 212K FP2 = 3.5K FEQ = 1.4 RO = 5K
.PARAM GM = 1M
.PARAM RX = {1/GM}
.PARAM PI = 3.141592

GRI  GNDF VEQ VALUE = {V(GNDF,VEQ)/10MEG}
GRF  VIZ  VEQ VALUE = {V(VIZ,VEQ)/10MEG}
CF  VIZ  VEQ {1/(2*PI*10E6*FEQ)}
EQ  VIZ GNDF VI VEQ 100K

E0  VP0 GNDF VIZ VO 1N

GZ1  GNDF VZ1 VP0 GNDF {GM}
GRZ1  VZ1 VX1 VALUE =  {V(VZ1,VX1)/RX}
LZ1  VX1 GNDF {RX/(2*PI*FZ1)}

EP1  VP1 GNDF VZ1 GNDF 1
GRP1  VP1 VP1X VALUE =  {V(VP1,VP1X)/RX}
CP1  VP1X GNDF {1/(2*PI*RX*FP1)}

GZ2  GNDF VZ2 VP1X GNDF {GM}
GRZ2  VZ2 VX2 VALUE =  {V(VZ2,VX2)/RX}
LZ2  VX2 GNDF {RX/(2*PI*FZ2)}

EP2  VP2 GNDF  VZ2 GNDF 1
GRP2  VP2 VP2X VALUE =  {V(VP2,VP2X)/RX}
CP2  VP2X GNDF {1/(2*PI*RX*FP2)}

GZ3  GNDF VZ3 VP2X GNDF {GM}
GRZ3  VZ3 VX3 VALUE =  {V(VZ3,VX3)/RX}
LZ3  VX3 GNDF {RX/(2*PI*FZ3)}

E1   VOX GNDF VZ3 GNDF 1G

GR1   VOX VO VALUE = {V(VOX,VO)/RO}

.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT CMRR   VI  VO  GNDF PARAMS: CMRR = 130 FCMRR = 1.6K
.PARAM PI = 3.141592
.PARAM RCMRR = 1
.PARAM GCMRR = {PWR(10,-CMRR/20)/RCMRR}
.PARAM LCMRR = {RCMRR/(2*PI*FCMRR)}
G1  GNDF 1 VI GNDF {GCMRR}
R1  1 2 {RCMRR}
L1  2 GNDF {LCMRR}
E1  VI VO 1 GNDF 1
.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT PSRR   VDD  VSS  VI  VO  GNDF PARAMS: PSRR = 130 FPSRR = 1.6
.PARAM PI = 3.141592
.PARAM RPSRR = 1
.PARAM GPSRR = {PWR(10,-PSRR/20)/RPSRR}
.PARAM LPSRR = {RPSRR/(2*PI*FPSRR)}
G1  GNDF 1 VDD VSS {GPSRR}
R1  1 2 {RPSRR}
L1  2 GNDF {LPSRR}
E1  VO VI 1 GNDF 1
C2  VDD VSS 10P
.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

* BEGIN PROG NSE FEMTO AMP/RT-HZ
.SUBCKT FEMT  1 2 PARAMS: NLFF = 0.1 FLWF = 0.001 NVRF = 0.1
* BEGIN SETUP OF NOISE GEN - FEMPTOAMPS/RT-HZ
* INPUT THREE VARIABLES
* SET UP INSE 1/F
********************
* FA/RHZ AT 1/F FREQ
* NLFF
********************
* FREQ FOR 1/F VAL
* FLWF
********************
* SET UP INSE FB
* FA/RHZ FLATBAND
* NVRF
********************
* END USER INPUT
* START CALC VALS
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS
* END PROG NSE FEMTO AMP/RT-HZ

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

* BEGIN PROG NSE NANO VOLT/RT-HZ
.SUBCKT VNSE  1 2 PARAMS: NLF = 10 FLW = 4  NVR = 4.6
* BEGIN SETUP OF NOISE GEN - NANOVOLT/RT-HZ
* INPUT THREE VARIABLES
* SET UP VNSE 1/F
********************
* NV/RHZ AT 1/F FREQ
* NLF
********************
* FREQ FOR 1/F VAL
* FLW
********************
* SET UP VNSE FB
* NV/RHZ FLATBAND
* NVR
********************
* END USER INPUT
* START CALC VALS
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS
* END PROG NSE NANOV/RT-HZ

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT INPUT   VIP  VIN  VOP  VON  GNDF PARAMS: RCM = 1  CCM = 100F  CDM = 100F
C1          VOP GNDF {CCM}
C2          VON GNDF {CCM}
C3          VOP VON {CDM}
G1          VIP VOP VALUE =  {V(VIP,VOP)/RCM}
G2          VIN VON VALUE = {V(VIN,VON)/RCM}
.ENDS








